US07179812B2
5-Bromo-2-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyrimidine (0.350 g, 1.26 mmol) is dissolved in ethyl acetate (3 ml) and hydrogenated for 2 h at r.t. in the presence of palladium on charcoal (10%, 175 mg). The reaction mixture is filtered and concentrated in vacuo to yield 5-Bromo-2-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine as a beige solid. Yield 290 mg (82%)

reactant | 5-Bromo-2-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyrimidine | 1.26 mmol, 0.350 g | BrC=1C=NC(=NC1)C#CCCN1N=NC=C1 | C10H8BrN5
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 175 mg | [Pd] | Pd
product | 5-Bromo-2-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine | BrC=1C=NC(=NC1)CCCCN1N=NC=C1 | C10H12BrN5
